Name:  ___       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cat bite with cellulitis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo M with PMH of HTN, OSA, and GERD, p/w acute onset right 
thumb swelling and erythema, rapidly progressing up his hand and 
right forearm in setting of recent mild burn injury to right 
thumb, followed by cat bite.
.
Pt reports he was in USOH till ___ when he burned his right 
thumb on oven, had mild burn.  Placed honey and bandage on 
thumb, then awoke ___ night with kitten (X-mas gift, recently 
immunized) licking his thumb, startled the kitten, resulting in 
bite to tip of thumb.  Then ___ evening started developing 
redness, pain and swelling of the right thumb, progressed 
throughout the night, early ___ AM, awoke with severe 
pain, fevers, chills and nausea, as well as extension of 
erythema to his hand and forearm, so presented to ___.
.
At ___, had fever and leukocytosis.  Had plain film 
without evidence of foreign body.  Received tetanus, Unasyn and 
Percocet.  Transferred to ___ for Hand Surgery evaluation.
.
At ___ was febrile to 101.2 on presentation, but otherwise 
VSS. seen by Hand Surgery, recommend supportive care and IV 
antibiotics.  Received IV vancomycin x 1 dose, followed by 
Unasyn 3gm q6.  Also received additional Tdap vaccination in ED. 
 Received IV morphine and PO oxycodone with good pain control.  
After 24 hours of IV Unasyn, he has remained afebrile, but 
cellulitis has not significantly improved, so Hand Surgery 
recommended admission for an additional ___ hrs of antibiotics 
and close monitoring.
.
On arrival to floor, pt reports he is currently comfortable, 
with pain well controlled.  He reports improved erythema of the 
hand and forearm.  He denies numbness or tingling.  He denies 
any fever or chills at this time.  He does not have nausea or 
vomiting and would like to order lunch.  He denies any history 
of MRSA or MRSA exposure, although he was in the ___.
.
ROS: 10-point ROS negative except as noted above in HPI.
.
 
Past Medical History:
Low back pain / lumbar DJD with radiculopathy
- s/p epidural injections
OSA
- not currently on CPAP due to broken machine
Hypertension
Insomnia, well controlled with melatonin
___ tendinitis
- s/p bilateral tendon surgery at ___
- on chronic opioids with Percocet
GERD with hiatal hernia
- EGD ___, no ___ or H. pylori
 
Social History:
___
Family History:
Mom is alive, has HTN.
Dad is alive, has HTN and HLD.
1 sibling only, sister is alive and healthy.
PGM has history of colon CA.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.3, 145/94, 76, 18, 98% on RA
Gen: NAD, pleasant
HEENT: anicteric, OP clear, MMM
CV: RRR, no murmur
Pulm: CTAB
Abd: soft, NT, ND, NABS
Ext: no lower extremity edema, + swelling of right thumb, palmar 
erythema
Skin: small puncture wound of right thumb tip without drainage, 
erythematous right thumb, tracking on dorsal hand, thru the 
volar forearm, just past the elbow, c/w lymphangitic tracking.  
Erythematous areas are warm and tender to palpation.
MKS: FROM of right wrist and elbow.  Limited active ROM of right 
thumb IP, MCP joints due to pain, but intact PROM.
Neuro: AAOx3, fluent speech
Psych: calm, appropriate

Discharge Physical Exam:
VS: AF, 98.3, 125/72, 71, 16, 100% on RA
Pain: zero out of 10.
Gen: lying comfortably in bed, appears well
HEENT: anicteric, OP clear
CV: RRR, no murmur
Pulm: CTAB, no crackles
Abd: soft, NT, ND, NABS
Ext: minimal swelling of right thumb.  Active ROM of right thumb 
IP, MCP joints
Skin: no erythema on right hand/forearm
Neuro: fluent speech
Psych: calm, appropriate

 
Pertinent Results:
___
___ Blood cx's x 2 sets:  NGTD
___ WBC 13.6, 77%N, no bands.  Otherwise Chem-7 and CBC WNL.
___ Right Hand X-ray
CONCLUSION: Negative views of the right hand and thumb.

___
___ WBC 12.6, CBC, Chem-7 otherwise WNL
___ Blood cx's x 2 sets: NGTD

___ WBC 8.3, CBC, Chem-7 otherwise WNL

 
Brief Hospital Course:
___ yo M with PMH of OSA, GERD and HTN, presents with right 
hand/arm cellulitis from cat bite, admitted for IV antibiotics.

# Right hand/arm cellulitis 
# Cat bite
s/p cat bite from immunized pet.  No evidence of deep space 
infection per Hand Surgery evaluation, so no plans for surgical 
intervention with drainage / debridement.  Improved quickly on 
IV Unasyn.  No history of MRSA, but does have prior military 
service as risk factor.  He did receive 1 dose of IV vancomycin,
but 1 dose unlikely to result in significant improvement that we 
are seeing.  Received Tdap in ED.  After 3 days of IV Unasyn, 
his symptoms had resolved completely.  No fevers or 
leukocytosis.  Blood cx's from ___ with NGTD.  He is being 
discharged to complete a 10 day course of antibiotics, will 
receive 7 days of Augmentin as outpatient.  He can f/u with Hand 
Surgery at ___ as needed (Dr. ___ contact info was 
provided) or ask his PCP for referral to ___, who is affiliated 
with ___ and where patient has previously had orthopedic 
surgery.

# Hypertension, benign: stable, continue home HCTZ.

# OSA: pt declining CPAP, has not used in many years as home 
CPAP broken and sleeping well currently.

# GERD: Long standing history of GERD due to hiatal hernia.  Has 
been on multiple PPI's in the past, currently taking Dexilant 
samples provided by his PCP, as insurance does not cover.  
responding well to Protonix.  Will provide script on DC.

# Chronic tendon pain:  holding home Percocet.  Will have pain 
management as above for his cellulitis with oxycodone, to avoid 
masking any fever with Tylenol.  PMP was
reviewed online prior to discharge.

DISPO: home, f/u with PCP. can also f/u with Hand Surgery PRN

TRANSITIONAL ISSUES:
1.  complete course of antibiotics, total 10 day course (3 days 
of IV Unasyn as inpatient, followed by 7 days of Augmetin as 
outpatient)
2.  PENDING STUDIES AT TIME OF DISCHARGE
### ___ Blood cx 2 sets (___) - NGTD, final PENDING
### ___ Blood cx 2 sets (___) - NGTD, final PENDING
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Dexilant (dexlansoprazole) 60 mg oral DAILY 
3. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN pain 
4. melatonin 1.5 mg oral QHS 

 
Discharge Medications:
1. Hydrochlorothiazide 25 mg PO DAILY 
2. melatonin 1.5 mg oral QHS 
3. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*60 Tablet Refills:*0
4. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth every 24 hours Disp 
#*30 Tablet Refills:*0
5. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet by mouth 
every 12 hours Disp #*14 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hand / arm cellulitis due to cat bite

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for infection of your hand and 
forearm due to a cat bite.  You were placed on IV antibiotics 
with good response.  You were seen by the Hand Surgeons, but 
fortunately, no surgery is required at this time and we expect a 
complete recovery.  You are being discharged to complete a 
course of oral antibiotics.  We recommend you stop taking your 
home Percocet until after your antibiotic course is complete, as 
we do not want to mask any fever with Tylenol / acetaminophen.  
We have provided you with a prescription for a small supply of 
oxycodone instead.  We also provided you with a script for 
pantoprazole (Protonix) for your reflux disease.  You should 
stop taking the Dexilant samples from your PCP if you take the 
pantoprazole.
 
Followup Instructions:
___